US03994791
Preparation of dibenzyl diselenide
About 12.6 grams (0.1 moles) benzylchloride is now added by dropwise addition over a period of 15 minutes to the magnesium diselenide reagent. In about 5 to 10 minutes after the mixture of these materials, the reddish brown color of the solution appears discharged. This solution is diluted further by the addition of 200 milliliters water and the addition of 10 milliliters concentrated hydrochloric acid. Upon cooling of this solution, the solids contained within the flask are collected by filtration and recrystallized from ethanol. Yield: 14 grams of yellow crystals (m.p. 94°C). Infrared spectral analysis of this material confirms that it is dibenzyl diselenide.

reactant | benzylchloride | 0.1 moles, 12.6 grams | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | magnesium diselenide | [Se-][Se-].[Mg+2]
reactant | hydrochloric acid | 10 milliliters | Cl | ClH
solvent | water | 200 milliliters | O | H2O
product | dibenzyl diselenide | C(C1=CC=CC=C1)[Se][Se]CC1=CC=CC=C1 | C14H14Se2
